US09284271B2
Iodine monochloride (1.39 mL; 27.77 mmol) was added to a solution of 3,4-dichloroaniline (4.50 g; 27.77 mmol) in acetic acid (15 mL) and the resulting mixture was stirred 30 minutes at room temperature. The solution was concentrated to dryness, neutralized with sodium bicarbonate and extracted with dichloromethane. The combined organic layers were washed with a saturated solution of sodium thiosulphate, dried over magnesium sulphate and concentrated under reduced pressure. The crude material was purified by flash chromatography on silica gel (eluent 2 to 20% ethyl acetate in heptane) to afford 3.46 g (43%) of 4,5-dichloro-2-iodoaniline as a brown solid.

reactant | Iodine monochloride | 27.77 mmol, 1.39 mL | ICl | ClI
reactant | 3,4-dichloroaniline | 27.77 mmol, 4.50 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4,5-dichloro-2-iodoaniline | 3.46 g, 43% | ClC1=CC(=C(N)C=C1Cl)I | C6H4Cl2IN
